US06441044B1
b) Methyl 1-Cyano-2,2,3,3-tetramethylcyclopropane-1-carboxylate
The title compound was synthesized similarly to J. Org. Chem. 50 (1985), 2807-2809: 5.6 g (50mmol) of potassium tert-butoxide were initially charged in 15 ml of dimethyl sulfoxide, and 4.4 g (50 mmol) of nitropropane dissolved in 190 ml of dimethyl sulfoxide were slowly added dropwise. After addition of 5 g (36 mmol) of methyl 2-cyano-3-methylbut-2-enoate dissolved in 10 ml of dimethyl sulfoxide, the mixture was stirred at room temperature for 40 hours. The reaction was quenched by slow addition of water. The reaction mixture was extracted three times with methyl tert-butyl ether. The organic phases were dried with magnesium sulfate and freed from ether giving the crude product (9 g), which was employed for the next reaction without any further purification.

reactant | potassium tert-butoxide | 50mmol, 5.6 g | CC(C)([O-])C.[K+]
reactant | nitropropane | 50 mmol, 4.4 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | methyl 2-cyano-3-methylbut-2-enoate | 36 mmol, 5 g | C(#N)C(C(=O)OC)=C(C)C | C7H9NO2
reactant | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 190 ml | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | Methyl 1-Cyano-2,2,3,3-tetramethylcyclopropane-1-carboxylate | C(#N)C1(C(C1(C)C)(C)C)C(=O)OC | C10H15NO2
